US06172085B2
4-[(Dipenylmethoxy)methyl]piperidine
In a reactor fitted with a water trap, a mixture of benzhydrol (3.7 g), 4-piperidinemethanol (2.3 g), camphor-10-sulfonic acid (7.0 g), and toluene (30 mL) was refluxed for 2 hours. After cooling, 35 mL of 1N-aqueous sodium hydroxide was added and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure to provide 5.3 g of the title compound. Yield 94%. This product was not further purified but directly submitted to the next reaction.

reactant | benzhydrol | 3.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 4-piperidinemethanol | 2.3 g | N1CCC(CC1)CO | C6H13NO
reactant | camphor-10-sulfonic acid | 7.0 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(Dipenylmethoxy)methyl]piperidine | 5.3 g, Yield 94% | C1(=CC=CC=C1)C(OCC1CCNCC1)C1=CC=CC=C1 | C19H23NO
